US06384028B1
To a mixture of N-[(R)-1-[3-(1-tert-butoxycarbonyl-4-piperidyl)-(E)-acryloyl]-3-piperidylcarbonyl]-3(S)-ethynyl-β-alanine (0.6 g), n-pentylalcohol (0.16 ml) and N,N-dimethylaminopyridine (16 mg) in dichloromethane (6 ml) was added 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (0.27 g) at 0° C. After stirring at room temperature for overnight, the solution was evaporated in vacuo. The residue was poured into water and extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogencarbonate, water and brine, dried over MgSO4, and evaporated in vacuo, subsequently. The residue was purified by column chromatography on silica gel eluting with AcOEt:Hexane=(1:1) to give N-[(R)-1-[3-(1-tert-butoxycarbonyl-4-piperidyl)-(E)-acryloyl]-3-piperidylcarbonyl]-3(S)-ethynyl-β-alanine n-pentyl ester as a colorless oil (0.65 g, 94.0%).

reactant | N-[(R)-1-[3-(1-tert-butoxycarbonyl-4-piperidyl)-(E)-acryloyl]-3-piperidylcarbonyl]-3(S)-ethynyl-β-alanine | 0.6 g | C(C)(C)(C)OC(=O)N1CCC(CC1)/C=C/C(=O)N1C[C@@H](CCC1)C(=O)N[C@@H](CC(=O)O)C#C | C24H35N3O6
reactant | n-pentylalcohol | 0.16 ml | C(CCCC)O | C5H12O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 0.27 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | N-[(R)-1-[3-(1-tert-butoxycarbonyl-4-piperidyl)-(E)-acryloyl]-3-piperidylcarbonyl]-3(S)-ethynyl-β-alanine n-pentyl ester | 0.65 g, 94.0% | C(CCCC)OC(C[C@H](NC(=O)[C@H]1CN(CCC1)C(\C=C\C1CCN(CC1)C(=O)OC(C)(C)C)=O)C#C)=O | C29H45N3O6
